US07786132B2
(i) N,N-Diethyl-4-methoxybenzamide
4-Methoxybenzoic acid (6 g, 39 mmol) was treated with diethylamine (4.45 mL, 43 mmol), TBTU (15 g, 46.8 mmol), disopropylethylamine (10.2 mL, 58.5 mmol) in DMF (40 mL). The mixture was stirred at ambient temperature overnight. The reaction was poured into ice water and the resulting mixture extracted several times with ethyl acetate. The organic layer was washed with a solution of saturated sodium bicarbonate, water and then brine. The organic layer was then dried with sodium sulfate, concentrated and purified by flash chromatography using a gradient of 30 to 70% ethyl acetate in hexanes to obtain a brown oil. Yield=7.8 g. MS (M+H)+ 208.

reactant | 4-Methoxybenzoic acid | 39 mmol, 6 g | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | diethylamine | 43 mmol, 4.45 mL | C(C)NCC | C4H11N
reactant | TBTU | 46.8 mmol, 15 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | N,N-Diethyl-4-methoxybenzamide | C(C)N(C(C1=CC=C(C=C1)OC)=O)CC | C12H17NO2
